* /Users/camerontribe/Documents/Projects/HiFiAudio/LTSpice/LowPass.asc
C1 N006 0 1.78µ
C2 N007 0 11.7µ
L1 N006 N007 12.9mH
R1 N007 0 50
R2 N005 N006 50
V1 N005 0 AC 1
R3 0 N001 1k
R4 N001 VbesselLP 1k
XU2 N007 N001 N003 N011 VbesselLP LT1037
V2 N003 0 10
V3 0 N011 10
C3 N019 N018 1.09µF
L2 N019 0 1.2mH
R5 N019 0 50
R6 N017 N018 50
V4 N017 0 AC 1
R7 0 N013 1k
R8 N013 VbesselHP 1k
XU1 N019 N013 N015 N023 VbesselHP LT1037
V5 N015 0 10
V6 0 N023 10
L3 N018 0 7.8mH
C4 N031 N030 5.6µ
L4 N032 0 65.7m
R9 N032 0 50
R10 N029 N030 50
V7 N029 0 AC 1
R11 0 N025 1k
R12 N025 VbesselBP 1k
XU3 N032 N025 N027 N037 VbesselBP LT1037
V8 N027 0 10
V9 0 N037 10
L5 N030 0 40m
C5 0 N030 380n
C6 0 N032 240n
L6 N031 N032 2.8m
C7 N009 0 530n
C8 N010 0 530n
L7 N009 N010 265m
R13 N010 0 500
R14 N008 N009 500
V10 N008 0 AC 1
R15 0 N002 1k
R16 N002 VbutterLP 1k
XU4 N010 N002 N004 N012 VbutterLP LT1037
V11 N004 0 10
V12 0 N012 10
C9 N022 N021 53n
L8 N022 0 27m
R17 N022 0 500
R18 N020 N021 500
V13 N020 0 AC 1
R19 0 N014 1k
R20 N014 VbutterHP 1k
XU5 N022 N014 N016 N024 VbutterHP LT1037
V14 N016 0 10
V15 0 N024 10
L9 N021 0 27m
C10 N035 N034 272n
L10 N036 0 136m
R21 N036 0 500
R22 N033 N034 500
V16 N033 0 AC 1
R23 0 N026 1k
R24 N026 VbutterBP 1k
XU6 N036 N026 N028 N038 VbutterBP LT1037
V17 N028 0 10
V18 0 N038 10
L11 N034 0 136m
C11 0 N034 114n
C12 0 N036 114n
L12 N035 N036 57m
.ac dec 1000 1 100k
* .step param R 50 500 50
* Bessel Filter\nHigh Pass
* Besel Filter\nLow Pass
* Bessel Filter\nBand Pass
* .ac dec 1000 1 100k
* .step param R 50 500 50
* Butterworth Filter\nHigh Pass
* Butterworth Filter\nLow Pass
* Butterworth Filter\nBand Pass
* .step param mult list .1 .5 1.5
.lib LTC.lib
.backanno
.end
