* /Users/camerontribe/Documents/Projects/HiFiAudio/LTSpice/All Filters.asc
C1 VinLP 0 1.78µ
C2 N006 0 11.7µ
L1 VinLP N006 12.9mH
R1 N006 0 50
XU2 N006 N002 V+ V- N003 LT1037
C3 N020 VinHP 1.09µF
L2 N020 0 1.2mH
R5 N020 0 50
XU1 N020 N012 V+ V- N013 LT1037
L3 VinHP 0 7.8mH
C4 N030 VinBP 5.6µ
L4 N031 0 65.7m
R9 N031 0 50
V7 N019 0 AC 1
XU3 N031 N026 V+ V- N027 LT1037
L5 VinBP 0 40m
C5 0 VinBP 380n
C6 0 N031 240n
L6 N030 N031 2.8m
C7 N008 0 530n
C8 N009 0 530n
L7 N008 N009 265m
R13 N009 0 500
R14 N007 N008 500
V10 N007 0 AC 1
R15 0 N004 1k
R16 N004 VbutterLP 1k
XU4 N009 N004 N005 N010 VbutterLP LT1037
V11 N005 0 10
V12 0 N010 10
C9 N023 N022 53n
L8 N023 0 27m
R17 N023 0 500
R18 N021 N022 500
V13 N021 0 AC 1
R19 0 N017 1k
R20 N017 VbutterHP 1k
XU5 N023 N017 N018 N024 VbutterHP LT1037
V14 N018 0 10
V15 0 N024 10
L9 N022 0 27m
C10 N034 N033 272n
L10 N035 0 136m
R21 N035 0 500
R22 N032 N033 500
V16 N032 0 AC 1
R23 0 N028 1k
R24 N028 VbutterBP 1k
XU6 N035 N028 N029 N036 VbutterBP LT1037
V17 N029 0 10
V18 0 N036 10
L11 N033 0 136m
C11 0 N033 114n
C12 0 N035 114n
L12 N034 N035 57m
XU7 0 N001 V+ V- VbesselLP LT1037
XU8 0 N011 V+ V- VbesselHP LT1037
V19 V+ 0 10
V20 0 V- 10
XU9 0 N025 V+ V- VbesselBP LT1037
R3 N001 N003 20k
R4 N011 N013 20k
R7 N025 N027 20k
R8 VbesselLP N001 20k
R11 VbesselHP N011 20k
R12 VbesselBP N025 20k
R25 N002 0 100k
R26 N003 N002 100k
R27 N013 N012 100k
R28 N027 N026 100k
R29 N026 0 100k
R30 N012 0 100k
XU10 0 N014 V+ V- N015 LT1037
R2 N014 N019 20k
R6 N015 N014 20k
R10 VinHP N016 50
C13 N016 N015 100µ
R31 VinBP N016 50
R32 VinLP N016 50
.ac dec 1000 1 100k
* .step param R 50 500 50
* Bessel Filter\nHigh Pass
* Besel Filter\nLow Pass
* Bessel Filter\nBand Pass
* .ac dec 1000 1 100k
* .step param R 50 500 50
* Butterworth Filter\nHigh Pass
* Butterworth Filter\nLow Pass
* Butterworth Filter\nBand Pass
* .step param mult list .1 .5 1.5
.lib LTC.lib
.backanno
.end
